US07037921B2
3-(3,5-dichloro-pyridin-2-yl)-5-methyl-isoxazole-4-carboxylic acid
Combine 3-(3,5-dichloro-pyridin-2-yl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester (0.755 g, 0.0025 mol) with aqueous sodium hydroxide (2N, 6.0 mL, 0.012 mol), ethanol (2 mL), and tetrahydrofuran (2 mL) and stir overnight at ambient temperature. Add water and adjusted to approx. pH 3.0 with aqueous hydrochloric acid. Extract with ethyl acetate and dry over sodium sulfate and concentrate in vacuo. Drying nets the desired isoxazole acid as a tan solid(0.65 g, 95%). MS (ES): (M+1)+ 273.0,275.0 m/z.

reactant | 3-(3,5-dichloro-pyridin-2-yl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 0.0025 mol, 0.755 g | C(C)OC(=O)C=1C(=NOC1C)C1=NC=C(C=C1Cl)Cl | C12H10Cl2N2O3
reactant | sodium hydroxide | 0.012 mol, 2N, 6.0 mL | [OH-].[Na+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(3,5-dichloro-pyridin-2-yl)-5-methyl-isoxazole-4-carboxylic acid | ClC=1C(=NC=C(C1)Cl)C1=NOC(=C1C(=O)O)C | C10H6Cl2N2O3
